US09108939B2
tert-Butyl 4-((2-fluoro-4-nitrophenyl)(methyl)amino)piperidine-1-carboxylate (2.83 mmol, 1 g) was dissolved in dichloromethane (10 mL). Trifluoroacetic acid (3 mL) was added and the reaction mixture stirred at room temperature for 30 minutes. The reaction mixture was concentrated under vacuum and purified by SCX chromatography to afford the intermediate N-(2-fluoro-4-nitrophenyl)-N-methylpiperidin-4-amine (600 mg).

reactant | tert-Butyl 4-((2-fluoro-4-nitrophenyl)(methyl)amino)piperidine-1-carboxylate | 2.83 mmol, 1 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N(C1CCN(CC1)C(=O)OC(C)(C)C)C | C17H24FN3O4
reactant | Trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(2-fluoro-4-nitrophenyl)-N-methylpiperidin-4-amine | 600 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])N(C1CCNCC1)C | C12H16FN3O2
